US07943613B2
Sodium methoxide (12.5 mg, 0.225 mmol) was added to 1 M solution of lithium aluminum hydride in tetrahydrofuran (5 mL, 5 mmol) under argon. The mixture was cooled to 0° C. and a solution of the above hydroxy derivative (730 mg, 5 mmol) in tetrahydrofuran (12.5 mL) was added over 10 min. The reaction mixture was stirred at 0° C. for 3 h; dry ethyl acetate (0.825 mL) was added and the whole mixture was stirred at ambient temperature for 15 min. A degassed solution of 1,4-diiodobenzene (2.15 g, 6.5 mmol) in dry tetrahydrofuran (5 mL), anhydrous zinc chloride (0.408 g, 3 mmol), tris(dibenzylideneacetone)dipalladium chloroform complex (0.103 g, 0.1 mmol), and tri(2-furyl)phosphine (92.5 mg, 0.4 mmol) were added; the mixture was degassed and then heated at 65° C. for 20 h under nitrogen. The suspension was cooled down to ambient temperature, methanol (2.5 mL) was added and the mixture was stirred for additional 1 h. The reaction was diluted with ether (50 mL) and saturated aqueous solution of ammonium chloride (1.25 mL) was added. The mixture was filtered through a paddle of silica gel and the paddle was thoroughly washed with ether (100 mL). The solvents were evaporated and the residue was separated by flash column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 4:1) affording (Z)-3-(4-iodophenyl)-3-(4-methylphenyl)prop-2-en-1-ol as solidifying oil.

reactant | Sodium methoxide | 0.225 mmol, 12.5 mg | C[O-].[Na+]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,4-diiodobenzene | 6.5 mmol, 2.15 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | tri(2-furyl)phosphine | 0.4 mmol, 92.5 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | tetrahydrofuran | 12.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 3 mmol, 0.408 g | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 5 mmol, 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 0.825 mL | C(C)(=O)OCC | C4H8O2
product | (Z)-3-(4-iodophenyl)-3-(4-methylphenyl)prop-2-en-1-ol | IC1=CC=C(C=C1)\C(=C/CO)\C1=CC=C(C=C1)C | C16H15IO
